US06350750B1
Part C: To a solution of 5.2 g (16.5 mmol) of 2-methyl-4-phenoxy-8-bromo-quinoline in 175 ml DME-water (6:1), 3.3 g (20 mmol) of 2,4,6-tri-methyl-phenyl-boronic acid, 12.6 g (40 mmol) of Ba(OH)2.8H2O and 0.46 g (0.4 mmol) of tetrakis(triphenylphosphine)palladium were added. After heating at 80° C. for 16 hours the mixture was cooled to room temperature, water was added and the mixture was extracted with CH2Cl2. The organic layer was dried over magnesium sulphate and concentrated in vacuo. The product was purified on a silicagel column using CH2Cl2 as the eluent. A total of 4.2 g of 2-methyl-4-phenoxy-8-(2,4,6-trimethylphenyl)-quinoline was obtained (73% yield)

reactant | 2-methyl-4-phenoxy-8-bromo-quinoline | 16.5 mmol, 5.2 g | CC1=NC2=C(C=CC=C2C(=C1)OC1=CC=CC=C1)Br | C16H12BrNO
reactant | 2,4,6-tri-methyl-phenyl-boronic acid | 20 mmol, 3.3 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | water | O | H2O
solvent | DME water | 175 ml | COCCOC.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-methyl-4-phenoxy-8-(2,4,6-trimethylphenyl)-quinoline | 4.2 g, 73% yield | CC1=NC2=C(C=CC=C2C(=C1)OC1=CC=CC=C1)C1=C(C=C(C=C1C)C)C | C25H23NO
